US07439260B2
Step 3: 7-fluoro-4-hydroxy-2H-chromen-2-one
A solution of 1-(4-fluoro-2-hydroxyphenyl)ethanone (50 g, 0.33 mol) in toluene was added over 30 min to a suspension of NaH (60% oil, 65 g, 1.63 mol) in toluene. Then diethylcarbonate (59 mL, 0.49 mol) was added over 15 min and the reaction mixture was stirred at 115° C. for 6 h. The mixture was cooled to rt followed by the addition of HCl 2N and diluted with EtOAc. The organic phase was washed with brine, dried over Na2SO4 and evaporated. The residue was purified by trituration in hexane and Et2O to give the title compound.

reactant | 1-(4-fluoro-2-hydroxyphenyl)ethanone | 0.33 mol, 50 g | FC1=CC(=C(C=C1)C(C)=O)O | C8H7FO2
reactant | NaH | 1.63 mol, 65 g | [H-].[Na+]
reactant | diethylcarbonate | 0.49 mol, 59 mL | C(C)OC(OCC)=O | C5H10O3
reactant | HCl | 2N | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-fluoro-4-hydroxy-2H-chromen-2-one | FC1=CC=C2C(=CC(OC2=C1)=O)O | C9H5FO3
